US08084484B2
b) 2-(4-Amino-3-nitrophenyl)propanoic acid
A solution of 2-(4-Aminophenyl)propanoic acid (8.45 g, 51.2 mmol) in AcOH (70 mL) was added HNO3 (60%, 5.66 g) at room temperature. The reaction mixture was refluxed for 4 hrs then cooled to room temperature. The mixture was poured into iced water (200 mL), and extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo.

reactant | 2-(4-Aminophenyl)propanoic acid | 51.2 mmol, 8.45 g | NC1=CC=C(C=C1)C(C(=O)O)C | C9H11NO2
reactant | HNO3 | 5.66 g | [N+](=O)(O)[O-] | HNO3
reactant | water | 200 mL | O | H2O
solvent | AcOH | 70 mL | CC(=O)O | C2H4O2
product | 2-(4-Amino-3-nitrophenyl)propanoic acid | NC1=C(C=C(C=C1)C(C(=O)O)C)[N+](=O)[O-] | C9H10N2O4
